US04458075
4-Methyl-1-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]piperidine hydrochloride
A mixture of 5 g of 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole, 2.9 g of 4-methylpiperidine, 10 g of potassium carbonate and a few crystals potassium iodide in 50 ml of dimethylformamide was stirred at 65°-70° C. for four hrs. The mixture was cooled, filtered and concentrated to an oil. The oil was stirred with water and extracted with ether. The organic extracts were washed with water (2×), saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated. The residue was treated with ethereal hydrogen chloride to give 4 g (55%) or product, mp 180°-182° C. Recrystallization from ethyl acetate/methanol gave the analytical sample, 189°-190° C.

reactant | 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole | 5 g | ClCCCC1=NOC2=C1C=CC(=C2)F | C10H9ClFNO
reactant | 4-methylpiperidine | 2.9 g | CC1CCNCC1 | C6H13N
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-Methyl-1-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]piperidine hydrochloride | Cl.CC1CCN(CC1)CCCC1=NOC2=C1C=CC(=C2)F | InChI=1S/C16H21FN2O.ClH/c1-12-6-9-19(10-7-12)8-2-3-15-14-5-4-13(17)11-16(14)20-18-15;/h4-5,11-12H,2-3,6-10H2,1H3;1H
